US06281227B1
A. 6-Chloro-benzo[b]thiophene-2-sulfonic acid [1-(2-chloro-quinolin-7-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-amide
The title compound is prepared in CH2Cl2 instead of CH3CN from 7-(3-(S)-amino-2-oxopyrrolidin-1-ylmethyl)-2-chloro-quinoline hydrochloride as described in EXAMPLE 1, Part K using 6-chloro-benzo[b]thiophene-2-sulfonyl chloride as prepared in EXAMPLE 9, Parts A, B and C in place of 7-methoxynaphthalene-2-sulfonyl chloride. The crude product is triturated from EtOAc/hexanes to afford the title compound as a beige solid.

reactant | 7-(3-(S)-amino-2-oxopyrrolidin-1-ylmethyl)-2-chloro-quinoline hydrochloride | Cl.N[C@@H]1C(N(CC1)CC1=CC=C2C=CC(=NC2=C1)Cl)=O
reactant | 6-chloro-benzo[b]thiophene-2-sulfonyl chloride | ClC=1C=CC2=C(SC(=C2)S(=O)(=O)Cl)C1 | C8H4Cl2O2S2
reactant | 7-methoxynaphthalene-2-sulfonyl chloride | COC1=CC=C2C=CC(=CC2=C1)S(=O)(=O)Cl | C11H9ClO3S
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 6-Chloro-benzo[b]thiophene-2-sulfonic acid [1-(2-chloro-quinolin-7-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-amide | ClC1=NC2=CC(=CC=C2C=C1)CN1C([C@H](CC1)NS(=O)(=O)C1=CC2=C(S1)C=C(C=C2)Cl)=O | C22H17Cl2N3O3S2
